US04886835
The procedure is as in Example 29 for the preparation of ethyl (4-methylbenzylthio)acetate, starting with 1-chloromethyl-4-trifluoromethylbenzene (9.8 g), a 2M ethanolic solution of sodium ethylate (25 cc) and ethyl 2-mercaptoacetate (6.1 g) in ethanol (120 cc). Ethyl (4-trifluoromethylbenzylthio)acetate (12.2 g) is thereby obtained, and is used in the crude state in the subsequent syntheses.

reactant | ethyl (4-methylbenzylthio)acetate | CC1=CC=C(CSCC(=O)OCC)C=C1 | C12H16O2S
reactant | 1-chloromethyl-4-trifluoromethylbenzene | 9.8 g | ClCC1=CC=C(C=C1)C(F)(F)F | C8H6ClF3
reactant | sodium ethylate | 25 cc | CC[O-].[Na+]
reactant | ethyl 2-mercaptoacetate | 6.1 g | SCC(=O)OCC | C4H8O2S
solvent | ethanol | 120 cc | C(C)O | C2H6O
product | Ethyl (4-trifluoromethylbenzylthio)acetate | 12.2 g | FC(C1=CC=C(CSCC(=O)OCC)C=C1)(F)F | C12H13F3O2S
